US07074799B2
2. 4-Chloro-7-(3-trifluoromethyl-pyridin-2-yl)-2-methoxymethyl-pyrido[3, 2-d]pyrimidine
Dissolve 7-(3-trifluoromethyl-pyridin-2-yl)-2-methoxymethyl-3H-pyrido[3,2-d]pyrimidin-4-one (276 mg, 0.822 mmol) in CHCl3 (25 mL) and 2,6-lutidine (294 mg, 2.74 mmol). Add phosphorous oxycloride (0.255 mL, 2.74 mmol) dropwise and heat the resulting solution to reflux for 24 hours. Cool the solution and remove the solvent under reduced pressure. Partition the crude residue between EtOAc (50 mL) and saturated NaHCO3 (aq) (50 mL). Remove the organic phase and extract the aqueous phase with additional EtOAc (50 mL). Combine the two organic extracts, wash with brine (100 mL), and dry over Na2SO4. Remove the solvent to yield the title compound as a light brown solid.

reactant | 7-(3-trifluoromethyl-pyridin-2-yl)-2-methoxymethyl-3H-pyrido[3,2-d]pyrimidin-4-one | 0.822 mmol, 276 mg | FC(C=1C(=NC=CC1)C1=CC=2N=C(NC(C2N=C1)=O)COC)(F)F | C15H11F3N4O2
reactant | 2,6-lutidine | 2.74 mmol, 294 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | phosphorous oxycloride | 2.74 mmol, 0.255 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-7-(3-trifluoromethyl-pyridin-2-yl)-2-methoxymethyl-pyrido[3, 2-d]pyrimidine | ClC=1C2=C(N=C(N1)COC)C=C(C=N2)C2=NC=CC=C2C(F)(F)F | C15H10ClF3N4O
